US04169097
2,3-Dihydro-4-H-1-Benzopyran-4-one O-(Ethylaminocarbonyl)oxime
4-Chromanone oxime (20 g, 0.12 mole) was added to benzene (260 ml) and refluxed for 45 min. in a flask equipped with a Dean-Stark trap. The solution was cooled to 25°-30°, triethylamine (0.5 ml) was added, followed by ethyl isocyanate (8.5 g, 0.12 mole). The solution was refluxed for 3 hrs. and stored overnight at room temperature. The mixture was filtered and the filtrate was stripped of solvent under reduced pressure. Anhydrous ether (100 ml) was added to the residue and the mixture was cooled for 3 hrs. The product was collected by filtration, yield: 20 g (79%). A sample was recrystallized from isopropanol, m.p. 110°-111°.

reactant | 4-Chromanone oxime | 0.12 mole, 20 g | O1CCC(C2=CC=CC=C12)=NO | C9H9NO2
reactant | benzene | 260 ml | C1=CC=CC=C1 | C6H6
reactant | ethyl isocyanate | 0.12 mole, 8.5 g | C(C)N=C=O | C3H5NO
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 2,3-Dihydro-4-H-1-Benzopyran-4-one O-(Ethylaminocarbonyl)oxime | C(C)NC(=O)ON=C1CCOC2=C1C=CC=C2 | C12H14N2O3
